US04086350
The Grignard reagent prepared from 2.7 g. (0.02 mol) of 4-chloro-N-methylpiperidine and 0.5 g. (0.02 mol) of magnesium turnings in tetrahydrofuran is treated with 2.5 g. (0.01 mol) of 2,6-difluorothioxanthone at a rate to maintain slow reflux. The mixture is refluxed for six hours, hydrolyzed with saturated ammonium chloride solution and extracted with ether to yield 2,6-difluoro-9-(1-methyl-4-piperidyl)-thioxanthene-9-ol, m.p. 207°-209° C.

reactant | 4-chloro-N-methylpiperidine | 0.02 mol | ClC1CCN(CC1)C | C6H12ClN
reactant | magnesium | 0.02 mol | [Mg] | Mg
reactant | 2,6-difluorothioxanthone | 0.01 mol | FC1=CC=2C(C3=CC=C(C=C3SC2C=C1)F)=O | C13H6F2OS
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2,6-difluoro-9-(1-methyl-4-piperidyl)-thioxanthene-9-ol | FC1=CC=2C(C3=CC=C(C=C3SC2C=C1)F)(O)C1CCN(CC1)C | C19H19F2NOS
